US08557834B2
N-({3-[(2-Bromophenyl)methyl]-1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl}carbonyl)glycine
A mixture of ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate (340 mg, 1.0 mmoles), pulv. potassium carbonate (750 mg, 5.35 mmoles) and 2-bromobenzyl bromide (480 mg, 1.92 mmoles) in dimethylacetamide (6 mL) was vigorously stirred at 100° C. for 3 hours. The mixture was poured into 1 molar hydrochloric acid and extracted with ethyl acetate (×2). The combined organic solutions were washed with 1 molar hydrochloric acid and evaporated. The residue was purified by flash chromatography (10-50% ethyl acetate in hexane), the required fractions evaporated, dissolved in ethanol (5 mL) and 1 molar sodium hydroxide solution (3.0 mL) added. The mixture was stirred overnight, acidified and extracted with ethyl acetate (×2), the combined extracts washed with 1 molar hydrochloric acid, dried and evaporated. Recrystallization from ethanol-water gave the title compound (150 mg, 38%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.11 (br. s., 1 H), 10.12 (br. s., 1 H), 7.65 (dd, J=7.96, 1.14 Hz, 1 H), 7.32 (ddd, J=7.52, 1.14 Hz, 1 H), 7.22 (ddd, J=7.64, 1.64 Hz, 1 H), 7.03 (dd, J=7.58, 1.26 Hz, 1 H), 5.00 (s, 2 H), 4.65 (t, J=12.13 Hz, 1 H), 4.13 (d, J=5.81 Hz, 2 H), 2.25 (q, 2 H), 1.79 (d, J=12.88 Hz, 2 H), 1.54-1.72 (m, 3 H), 1.28 (q, J=13.14 Hz, 2 H), 1.10 (q, J=12.38 Hz, 1 H)

reactant | ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate | 1.0 mmoles, 340 mg | C1(CCCCC1)N1C(NC(C(=C1O)C(=O)NCC(=O)OCC)=O)=O | C15H21N3O6
reactant | potassium carbonate | 5.35 mmoles, 750 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromobenzyl bromide | 1.92 mmoles, 480 mg | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | hydrochloric acid | 1 molar | Cl | ClH
solvent | dimethylacetamide | 6 mL | CC(=O)N(C)C | C4H9NO
product | N-({3-[(2-Bromophenyl)methyl]-1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl}carbonyl)glycine | 150 mg, 38% | BrC1=C(C=CC=C1)CN1C(N(C(=C(C1=O)C(=O)NCC(=O)O)O)C1CCCCC1)=O | C20H22BrN3O6
